US06900214B2
6-(3-Bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-1-(2H)-pyrimidinecarboxylic acid, 1-ethyl ester
To a solution of 6-(3-bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-(2H)-pyrimidine (0.29 g, 1 mmol) in THF (5 mL) chilled to −78° C. was added LDA (0.55 mL, 1.1 mmol, 2.0 M in THF). The resulting yellow suspension was stirred for 0.5 h, warmed to −20° C. for 0.5 h and recooled to −78° C.; then ethyl chloroformate (0.14 mL, 1.5 mmol) was added via syringe. The reaction mixture was stirred for 20 min, warmed to room temperature and quenched with EtOAc. This mixture was washed with aqueous NaHCO3 solution and with brine, dried (Na2SO4), and concentrated in vacuo. The residue was purified by flash column chromatography (10% to 30% EtOAc/hexanes) to give, after evaporation of solvent, 6-(3-bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-1-(2H)-pyrimidinecarboxylic acid, 1-ethyl ester as a colorless solid (0.29 g; 80%): 1H NMR (CDCl3, 400 MHz) δ 7.48 (m, 2H), 7.28 (m, 2H), 5.87 (s, 1H), 4.33 (m, 2H), 2.22 (s, 3H), 1.33 (t, 3H, J=7.0 Hz); LC/MS (ES+) 364 (M+H+).

reactant | 6-(3-bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-(2H)-pyrimidine | 1 mmol, 0.29 g | BrC=1C=C(C=CC1)C1C(=C(NC(N1)=O)C)C#N | C12H10BrN3O
reactant | LDA | 1.1 mmol, 2.0 M, 0.55 mL | [Li+].CC(C)[N-]C(C)C
reactant | ethyl chloroformate | 1.5 mmol, 0.14 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-(3-Bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-1-(2H)-pyrimidinecarboxylic acid, 1-ethyl ester | BrC=1C=C(C=CC1)C1C(=C(NC(N1C(=O)OCC)=O)C)C#N | C15H14BrN3O3
